US07521455B2
(1) Manufacture of 4-(3-azepan-1-ylpropoxy)aniline
The target compound was obtained by the method according to Example 138, using azepane, 3-bromopropanol and 4-nitrophenol as starting materials.

reactant | azepane | N1CCCCCC1 | C6H13N
reactant | 3-bromopropanol | BrCCCO | C3H7BrO
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | 4-(3-azepan-1-ylpropoxy)aniline | N1(CCCCCC1)CCCOC1=CC=C(N)C=C1 | C15H24N2O
